US06639107B1
(+,−) Cis -2-phenyl-cyclopentylamine
(5-Nitro-cyclopent-1-enyl)-benzene (0.63 g, 3.3 mmol) from preparation 4 above, was hydrogenated in 25 mL of ethanol using 0.16 g of 5% Pd/C at room temperature overnight at 413.69 kPa (60 psi). The solution was filtered over celite and concentrated in vacuo to 230 mg (43%) of the title compound as a colorless oil. The NMR was consistent with the assigned structure. Mass Spectrum (ES MS): M+1=162.

reactant | (5-Nitro-cyclopent-1-enyl)-benzene | 3.3 mmol, 0.63 g | [N+](=O)([O-])C1CCC=C1C1=CC=CC=C1 | C11H11NO2
solvent | ethanol | 25 mL, 0.16 g | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (+,−) Cis -2-phenyl-cyclopentylamine | C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N | C11H15N
